US06310056B1
d) Potassium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate
To a solution of 40 mg of allyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate in 0.8 ml of dichloromethane and 0.8 ml of ethyl acetate were added under the atmosphere of argon 3.4 mg of triphenylphosphine, 29 mg of potassium 2-ethylhexanoate, 6.4 mg of tetrakis-triphenylphosphine palladium (0), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into diethyl ether, and the resulting precipitate was collected by filtration, and purified by column chromatography on COSMOSEAL 40C18-PREP (water:methanol=20:1) to give 13 mg of the title compound.

reactant | allyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 40 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=NC=C3SC=CN32)C(=O)OCC=C)C1=O | C18H19N3O4S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium 2-ethylhexanoate | 29 mg | C(C)C(C(=O)[O-])CCCC.[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 0.8 ml | C(C)(=O)OCC | C4H8O2
product | Potassium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 13 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=NC=C3SC=CN32)C(=O)[O-])C1=O.[K+] | InChI=1S/C15H15N3O4S.K/c1-6-9(13-16-5-8-17(13)3-4-23-8)12(15(21)22)18-11(6)10(7(2)19)14(18)20;/h3-7,10-11,19H,1-2H3,(H,21,22);/q;+1/p-1/t6-,7+,10+,11+;/m0./s1
